US08106215B2
A.3.6 Synthesis of (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester
A solution of (1S,2S,5R)-2-(benzylamino-methyl)-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester (264 mg) in EtOH (12 mL) was treated with Pd/C 10% (100 mg) and stirred under hydrogen (1 bar) for 16 h. After filtration through celite and removal of the solvents the title compound was obtained as a colourless oil which was used without further purification.

reactant | (1S,2S,5R)-2-(benzylamino-methyl)-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | 264 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNCC1=CC=CC=C1 | C21H32N2O2
solvent | EtOH | 12 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CN | C14H26N2O2
